US04619924
3-Methylcarbonylthio-thiolane
A mixture of 1.6 g. (8.8 mmole) of crude 3-methylsulfonyloxy-thiolane and 1.5 g. (8.8 mmole) potassium thioacetate in 40 ml. acetone was refluxed under nitrogen for 20 hr. The mixture was then concentrated in vacuo and the residue was partitioned between 40 ml. ethyl acetate and 40 ml. water. The ethyl acetate layer was separated and washed with 30 ml. water and 30 ml. saturated sodium chloride solution, dried with anhydrous sodium sulfate and concentrated in vacuo. The crude product was chromographed on silica gel eluting with methylene chloride to yield 740 mg. (52%) of the title compound.

reactant | 3-methylsulfonyloxy-thiolane | 8.8 mmole | CS(=O)(=O)OC1CSCC1 | C5H10O3S2
reactant | potassium thioacetate | 8.8 mmole | C(C)(=S)[O-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 3-Methylcarbonylthio-thiolane | 52% | CC(=O)SC1CSCC1 | C6H10OS2
